* source LAB8_2180389_BO4
D_D1         N14392 0 Dbreak 
V_V1         N14385 0 0Vdc
R_R1         N14392 N14385  1.48k TC=0,0 
V_V3         0 VIN2.2  AC 0
+SIN 0 10.097 60 0 0 0
R_R11         VOUT1 VFIL1  1k TC=0,0 
V_V2         N18167 0  AC 0
+SIN 0 10.097 60 0 0 0
D_D15         N18167 VFIL1 D1N4006 
C_C4         0 VFIL1  47u  TC=0,0 
D_D16         VIN2.2 VFIL1 D1N4006 
R_R10         0 VOUT1  15k TC=0,0 
D_D19         VIN2.2 VFIL2 D1N4006 
V_V4         VIN2.1 0  AC 0
+SIN 0 10.097 60 0 0 0
D_D18         VIN2.1 VFIL2 D1N4006 
V_V5         0 VIN2.2  AC 0
+SIN 0 10.097 60 0 0 0
C_C5         0 VFIL2  47u  TC=0,0 
D_D21         0 VOUT1 Dbreak 
X_U1         VFIL2 VOUT2 0 TL780-05C
R_R12         0 VOUT2  1k TC=0,0 
