* source LAB1
X_U1         0 N14485 VCC VEE VOUT OP-27
R_R1         VIN N14485  10k TC=0,0 
R_R2         N14485 VOUT  100k TC=0,0 
V_V1         VIN 0  AC 0
+SIN 120m 180mv 1k 0 0 0
V_V2         VCC 0 10Vdc
V_V3         0 VEE 10Vdc
R_R3         0 N15923  10k TC=0,0 
X_U2         VIN2 N15923 VCC VEE VOUT2 OP-27
V_V4         VIN2 0  AC 0
+SIN 120m 180mv 1k 0 0 0
R_R4         N15923 VOUT2  100k TC=0,0 
