* source LAB2_2180389_B02
R_R1         VIN1 N14457  10k TC=0,0 
R_R2         N14457 VOUT  100k TC=0,0 
R_R3         VIN1 VIN2  100 TC=0,0 
R_R4         0 VIN2  100 TC=0,0 
R_R5         VIN2 N14457  10k TC=0,0 
V_V1         VIN1 0  AC 0
+SIN 150mV 120mV 1k 0 0 0
V_V2         VCC 0 15Vdc
V_V3         0 VEE 15Vdc
X_U3         0 N14457 VCC VEE VOUT LM741/NS
V_V4         VIN1.2 0  AC 0
+SIN 150mV 120mV 1k 0 0 0
R_R9         0 VIN2.2  100 TC=0,0 
R_R10         VIN2.2 N16915  10k TC=0,0 
X_U4         N16879 N16915 VCC VEE VOUT.2 LM741/NS
R_R7         N16915 VOUT.2  100k TC=0,0 
R_R8         VIN1.2 VIN2.2  100 TC=0,0 
R_R6         VIN1.2 N16879  10k TC=0,0 
R_R11         N16879 0  100k TC=0,0 
